US06825360B1
(a) Methyl 3-(3-hydroxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)phenylacrylate
2 g (5 mmol) of 3-(3-methoxymethoxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)phenylacrylic acid, 10 ml of methanol and 10 ml of THF are introduced into a round-bottomed flask. 2.8 ml of concentrated sulphuric acid are added and the mixture is stirred at room temperature for &é hours. The reaction medium is poured into water and extracted with ethyl ether, and the organic phase is separated out after settling has taken place, washed with water, dried over magnesium sulphate and evaporated. 1.80 g (98%) of the expected methyl ester are collected, with a melting point of 182-3° C.

reactant | 3-(3-methoxymethoxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)phenylacrylic acid | 5 mmol, 2 g | COCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=1C=C(C=CC1)C(C(=O)O)=C | C25H30O4
reactant | methanol | 10 ml | CO | CH4O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | sulphuric acid | 2.8 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | Methyl 3-(3-hydroxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)phenylacrylate | OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=1C=C(C=CC1)C(C(=O)OC)=C | C24H28O3
